US08802853B2
Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (0.095 g, 0.03 eq.), iodobenzene (0.685 g, 1.1 eq.), triethylamine (0.923 g, 3 eq.), and copper (I) iodide (0.035 g, 0.06 eq.) were added sequentially to a solution of 2-ethyl-1-(4-pentynyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.85 g, 3.0 mmol, 1.0 eq.) in DMF. The reaction mixture was stirred for 1 hour and then concentrated under reduced pressure. The residue was purified by column chromatography (silica gel eluting with 4/96 methanol/dichloromethane) to provide an oil. The oil was recrystallized from a mixture of ethanol and 1,2-dichloroethane. The resulting solid was dissolved in 1:1 mixture of ethanol and 1,2-dichloroethane, treated with activated charcoal, combined with a few drops of 10% sodium hydroxide, heated, and then filtered while still hot. The filtrate was concentrated under reduced pressure to provide 0.28 g of 2-ethyl-1-(5-phenyl-4-pentynyl)-1H-imidazo[4,5-c]quinolin-4-amine as white granules, mp 199.0-202.0° C. 1H NMR (300 MHz, DMSO-d6) δ 8.18 (dd, J=8.2, 1.0 Hz, 1H), 7.60 (dd, J=8.3, 0.9 Hz, 1H), 7.35-7.48 (m, 6H), 7.09 (ddd, J=8.2, 7.1, 1.2 Hz, 1H), 6.46 (s, 2H), 4.61 (t, J=7.8 Hz, 2H), 3.01 (q, J=7.4 Hz, 2H), 2.66 (t, J=6.5 Hz, 2H), 2.09 (m, 2H), 1.38 (t, J=7.4 Hz, 3H); MS (APCI) m/z 355 (M+H)+; Anal. calcd for C23H22N4.0.02C2H4Cl2: C, 77.64; H, 6.24; N, 15.72. Found: C, 77.68; H, 6.19; N, 15.64.

reactant | iodobenzene | 0.685 g, 1.1 eq. | IC1=CC=CC=C1 | C6H5I
reactant | triethylamine | 0.923 g, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-ethyl-1-(4-pentynyl)-1H-imidazo[4,5-c]quinolin-4-amine | 3.0 mmol, 0.85 g, 1.0 eq. | C(C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCC#C | C17H18N4
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.095 g, 0.03 eq. | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | copper (I) iodide | 0.035 g, 0.06 eq. | [Cu]I
product | 2-ethyl-1-(5-phenyl-4-pentynyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.28 g | C(C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCC#CC1=CC=CC=C1 | C23H22N4
